US08580780B2
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 3-bromomethyl-6-chloropyridazine to give 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridazin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine. Use a method similar to the General Procedure 1-4 to give the title compound as an off-white powder. MS (APCI+) m/z: 340 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 3-bromomethyl-6-chloropyridazine | BrCC=1N=NC(=CC1)Cl | C5H4BrClN2
product | 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridazin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2N=NC(=CC2)Cl | C20H23Cl2N3O2S
